US07304074B2
To a suspension of pseudothiohydantoin (Aldrich, 97%, 10.13 g, 84.61 mmol) in acetonitrile (159 mL) were added Di-tert-butyldicarbonate (20.32 g, 93.07 mmol) and DMAP (11.37 g, 93.07 mmol) at room temperature. The resulting mixture was stirred for 15 hrs at room temperature. The precipitated solid was collected by filtration and washed with CH2Cl2. The filtrate was concentrated and the residue was then purified by Biotage silica gel column to give (4-oxo-4,5-dihydro-thiazol-2-yl)-carbamic acid tert-butyl ester as a white solid (2.75 g, 15.0%). EI-LRMS m/e calcd for C8H12N2O3S (M+) 215.1. found 215.1.

reactant | pseudothiohydantoin | 84.61 mmol, 10.13 g | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
reactant | Di-tert-butyldicarbonate | 93.07 mmol, 20.32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 159 mL | C(C)#N | C2H3N
catalyst | DMAP | 93.07 mmol, 11.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (4-oxo-4,5-dihydro-thiazol-2-yl)-carbamic acid tert-butyl ester | 2.75 g, 15.0% | C(C)(C)(C)OC(NC=1SCC(N1)=O)=O | C8H12N2O3S
